US04560692
Synthesis of 1-[2-(4-chlorophenyl)-4-quinolinyl]-4-piperidinecarboxamide
In a manner analogous to that of Example 6, 4-chloro-2-(4-chlorophenyl)quinoline was reacted with isonipecotamide in phenol at 170° C., yielding the named compound, mp. 245°-247° dec., from ethanol.

reactant | 4-chloro-2-(4-chlorophenyl)quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)Cl | C15H9Cl2N
reactant | isonipecotamide | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | ethanol | C(C)O | C2H6O
solvent | phenol | C1(=CC=CC=C1)O | C6H6O
product | 1-[2-(4-chlorophenyl)-4-quinolinyl]-4-piperidinecarboxamide | ClC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)N1CCC(CC1)C(=O)N | C21H20ClN3O
